US08207214B2
a) 4-(9H-carbazol-9-yl)butanenitrile
Carbazole (10 g, 0.060 mol) was reacted with 4-bromobutyronitrile (11.9 ml, 0.12 mol) by working in a similar manner to Example 1a).

reactant | Carbazole | 0.060 mol, 10 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | 4-bromobutyronitrile | 0.12 mol, 11.9 ml | BrCCCC#N | C4H6BrN
product | 4-(9H-carbazol-9-yl)butanenitrile | C1=CC=CC=2C3=CC=CC=C3N(C12)CCCC#N | C16H14N2
